US06323240B1
(R,S)-2-hydroxy-4-oxo-4-(3′-chlorophenyl)butanoic acid (PNU 158789)
A well stirred mixture of 3-chloroacetophenone (18.9 g, 0.1 mol) and glyoxylic acid monohydrate (9.2 g, 0.1 mol) was heated at 60° C. under vacuum (25 mmHg), over 16 hours. The residue was taken up with diethyl ether and the organic phase was extracted with saturated NaHCO3 solution, the combined aqueous layers were whased with ether, cooled at 0° C. and the pH of the solution was adjusted to 2 by addition of 37% HCl. The resulting suspension was extracted with ethyl acetate, and the combined organic extracts washed with water, drided (Na2SO4) and concentrated in vacuo to provide the crude product. Column chromatography (SiO2; CH2Cl2/MeOH 95:5) afforded the pure titled compound as colorless needles, mp.98-100° C. (Diisopropyl ether/pentane).

reactant | 3-chloroacetophenone | 0.1 mol, 18.9 g | CC(=O)C1=CC(=CC=C1)Cl | C8H7ClO
reactant | glyoxylic acid monohydrate | 0.1 mol, 9.2 g | O.C(C=O)(=O)O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | Diisopropyl ether pentane | C(C)(C)OC(C)C.CCCCC | InChI=1S/C6H14O.C5H12/c1-5(2)7-6(3)4;1-3-5-4-2/h5-6H,1-4H3;3-5H2,1-2H3
